US08242104B2
A solution of 4-benzyloxy-2-fluoro-benzonitrile (84 g, 0.37 mol) in THF (450 mL) under an atmosphere of nitrogen, was cooled to −70° C. The resultant suspension was treated with a solution of 1M LiHMDS in THF (440 mL, 0.44 mol) over 10 min to reach a maximum temperature of −55° C. The reaction mixture was allowed to warm to RT and stirred for three days. Reaction progress was monitored by TLC analysis. The reaction mixture was poured onto ice/1M HCl mixture, the pH adjusted to ˜1 by addition of 6M HCl and washed with EtOAc (500 mL). The organic layer was extracted with 1M HCl and the combined aqueous extracts washed with EtOAc (500 mL). The acid aqueous extracts were concentrated to low volume in vacuo and the resultant solid filtered off, washed with H2O and dried in vacuo to give 4-Benzyloxy-2-fluoro-benzamidine hydrochloride as a pale cream crystalline solid (74.5 g, 72%). 1H NMR (400 MHz, d6-DMSO): 9.30 (4H, d, J=10.39 Hz), 7.64 (1H, t, J=8.59 Hz), 7.49-7.35 (5H, m), 7.19 (1H, dd, J=12.88, 2.41 Hz), 7.06 (1H, dd, J=8.77, 2.41 Hz), 5.25 (2H, s).

reactant | 4-benzyloxy-2-fluoro-benzonitrile | 0.37 mol, 84 g | C(C1=CC=CC=C1)OC1=CC(=C(C#N)C=C1)F | C14H10FNO
reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | HCl | 6M | Cl | ClH
solvent | THF | 450 mL | C1CCOC1 | C4H8O
solvent | THF | 0.44 mol, 440 mL | C1CCOC1 | C4H8O
product | 4-Benzyloxy-2-fluoro-benzamidine hydrochloride | 74.5 g, 72% | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C(=N)N)C=C1)F | InChI=1S/C14H13FN2O.ClH/c15-13-8-11(6-7-12(13)14(16)17)18-9-10-4-2-1-3-5-10;/h1-8H,9H2,(H3,16,17);1H
